US08466290B2
Synthesis of 2-phenyl-6-propionylamino-4-quinolinecarboxylic acid
6-amino-2-phenylquinoline-4-carboxylic acid (378 mg, 1.4 mmol) was suspended in pyridine (0.2 mL) and anhydrous THF (25 mL), and propionyl chloride (370 mg, 4 mmol) was added dropwise to the suspension with vigorous stirring. After reflux for 1.5 hours, the reaction solution was concentrated to approximately 10 mL. To the residue, ethyl acetate was added, and the deposited precipitate was collected by filtration and washed with water and ethyl ether. The crystal was recrystallized from glacial acetic acid to obtain the title compound (362 mg, 1.13 mmol) as a yellow powder.

reactant | 6-amino-2-phenylquinoline-4-carboxylic acid | 1.4 mmol, 378 mg | NC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)O | C16H12N2O2
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | propionyl chloride | 4 mmol, 370 mg | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-6-propionylamino-4-quinolinecarboxylic acid | 1.13 mmol, 362 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)O)NC(CC)=O | C19H16N2O3
